US05242912
5-Nitroindoline-7-carboxylic acid
Into concentrated hydrochloric acid (63.6 ml) was dissolved N-acetyl-7-cyano-5-nitroindoline (5.3 g), which was then subjected to stirring at 140° C. for 45 minutes. The reaction mixture was cooled to 0° C. to give deposited crystal, which was then collected by filtration. The obtained crude crystal was suspended into water (50 ml), and was rendered basic by adding 50% sodium hydroxide, and the insoluble matter was collected by filtration. After adding concentrated hydrochloric acid to the filtrate, the deposited crystal was collected by filtration and dried to give the intended compound 3.7 g (77.1%) as yellow powder. M.P.: 294°-297° C. (decomp.)

reactant | hydrochloric acid | 63.6 ml | Cl | ClH
reactant | N-acetyl-7-cyano-5-nitroindoline | 5.3 g | C(C)(=O)N1CCC2=CC(=CC(=C12)C#N)[N+](=O)[O-] | C11H9N3O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 50 ml | O | H2O
product | 5-Nitroindoline-7-carboxylic acid | 3.7 g, 77.1% | [N+](=O)([O-])C=1C=C2CCNC2=C(C1)C(=O)O | C9H8N2O4
